US07300936B2
(2R)-2-{N-(4-Chlorobenzenesulfonyl)-N-[4-(morpholine-4-carbonyl)-benzyl]amino}-4-methyl-pentanoic acid amide (EXAMPLE 101):
To a 0° C. solution of 4-{[N-((1R)-1-carbamoyl-3-methyl-butyl)-N-(4-chlorobenzenesulfonyl)amino]-methyl}benzoic acid (50.0 mg, 0.114 mmol) in DMF (0.3 mL) was added morpholine (12.9 mg, 0.148 mmol), followed by 1-hydroxybenzotriazole (18.5 mg, 0.137 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (26.2 mg, 0.137 mmol), and iPr2NEt (26 μL, 0.15 mmol). After 2 h, the solution was warmed to rt. After 4 h, the solution was poured into 10% aq. citric acid and extracted with EtOAc (2×). The combined organic layers were washed sequentially with water and sat. aq. NaHCO3, then dried (MgSO4) and concentrated. Flash column chromatography (SiO2, 40 to 100% EtOAc/hexanes) gave the title compound as a white solid (46.0 mg, 79%). MS (ESI), (M+H)+508.22; 1H NMR (CDCl3, 300 MHz) δ7.68 (d, 2H, J=8.6), 7.29-7.47 (m, 6H), 6.38 (br s, 1H), 5.75 (br s, 1H), 4.65 (d, 1H, J=16.0), 4.42 (d, 1H, J=16.0), 4.32 (t, 1H, J=7.5), 3.30-3.85 (br m, 8H), 1.69-1.78 (m, 1H), 1.28-1.37 (m, 1H), 1.08-1.14 (m, 1H), 0.76 (d, 3H, J=6.5), 0.63 (d, 3H, J=6.6).

reactant | 4-{[N-((1R)-1-carbamoyl-3-methyl-butyl)-N-(4-chlorobenzenesulfonyl)amino]-methyl}benzoic acid | 0.114 mmol, 50.0 mg | C(N)(=O)[C@@H](CC(C)C)N(S(=O)(=O)C1=CC=C(C=C1)Cl)CC1=CC=C(C(=O)O)C=C1 | C20H23ClN2O5S
reactant | morpholine | 0.148 mmol, 12.9 mg | N1CCOCC1 | C4H9NO
reactant | 1-hydroxybenzotriazole | 0.137 mmol, 18.5 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.137 mmol, 26.2 mg | Cl.CN(CCCN=C=NCC)C
reactant | iPr2NEt | 0.15 mmol, 26 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | (2R)-2-{N-(4-Chlorobenzenesulfonyl)-N-[4-(morpholine-4-carbonyl)-benzyl]amino}-4-methyl-pentanoic acid amide | 46.0 mg, 79% | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)C(=O)N1CCOCC1)[C@@H](C(=O)N)CC(C)C | C24H30ClN3O5S
